US04096253
Lead tetraacetate (0.65 g) is added to a solution of 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene (0.5 g, 1.3 mM) in 0.5 ml acetic anhydride and 10 ml glacial acetic acid with stirring. Solution occurs after 1 hr and stirring is continued at room temperature for 16 hrs. The resulting dark brown solution is evaporated in vacuo at 40° to give an oily residue which is dissolved in 150 ml of benzene. The benzene solution is then washed with H2O, 5% NaHCO3 and saturated NaCl solution. The organic layer is dried over MgSO4 and evaporated in vacuo to give a white solid. Trituration with ether gives 1,16β-diacetoxy-3-methoxyestra-1,3,5(10)-trien-17-one as a white solid, yield 0.31 g (62%). Recrystallization from methanol gives 1,16β-diacetoxy-3-methoxyestra-1,3,5(10)-trien-17-one having a m.p. of 191°-192°.

reactant | Lead tetraacetate | 0.65 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene | 1.3 mM, 0.5 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC | C23H28O5
reactant | ether | CCOCC | C4H10O
solvent | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1,16β-diacetoxy-3-methoxyestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3C12)=O)OC(C)=O)OC | C23H28O6
